* gnetlist -L ../.. -g spice-noqsi -o frequency_trap.net frequency_trap.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
Cs Vx 1 1n      
Vtest GND 1 sin(0.1 1 1GHz)
CL GND Vc 1n      
Vd Vdd GND 'SUPPLY'
Vs Vss GND 0V
.AC lin 10000000 0.1 1GHz
.GLOBAL Vdd Vss
.INCLUDE CMOS_Inverter.net
.INCLUDE Gm2.net
.PARAM SUPPLY=3v
.options TEMP=25
.options SCALE=1u
.MODEL nch NMOS
.MODEL pch PMOS
